US04457931
1-(2-Pyridyl-4-(1-methyl-2-(1-adamantylamino)ethyl)piperazine (26)
A suspension of 1-adamantylamine (12.0 grams; 0.079 moles) in 250 cc of DMF is prepared. Triethylamine (21.9 cc; 0.158 moles), is added and the mixture is warmed to about 50° C. To the warm solution, there is added over a period of 3 hours, 1-(2-pyridyl)-4-(2-bromo-1-methylethyl)piperazine (18.0 grams; 0.063 moles) keeping the temperature about the same. The reaction mixture is poured into 500 cc of water and then extracted with ether. The ethereal phase, washed with water, then washed to neutrality and allowed to evaporate, gives as a residue, a crude oily product, which is purified by column chromatography. (THF-diisopropyl ether-Et3N 50:40:10). Compound (26) is an oil, which solidifies after prolonged standing; m.p. 67°-68° C. from n-hexane); Rf=0.22 (from ethyl acetate Et3N 9:1); IR (nujol) νmax: 1590, 1480, 1430, 1310, 1240, 1160, 775 cm-1 ; νN-H: 3250 cm-1 ; 1H-NMR (CDCl3): 0.93 (d, J=5 Hz; 3H); 1.20-2.23 (m; 16H); 2.23-3.00 (m; 7H); 3.20-3.70 (m; 4H); 6.40-6.73 (m; 2H; 7.23-7.63 (m; 1H); 8.03-8.27 (m; 1H); tripicrate: m.p. 185° C. (from ethanol).

reactant | 1-adamantylamine | 0.079 moles, 12.0 grams | C12(CC3CC(CC(C1)C3)C2)N | C10H17N
reactant | Triethylamine | 0.158 moles, 21.9 cc | C(C)N(CC)CC | C6H15N
reactant | 1-(2-pyridyl)-4-(2-bromo-1-methylethyl)piperazine | 0.063 moles, 18.0 grams | N1=C(C=CC=C1)N1CCN(CC1)C(CBr)C | C12H18BrN3
reactant | water | 500 cc | O | H2O
solvent | DMF | 250 cc | CN(C)C=O | C3H7NO
product | 2-Pyridyl-4-(1-methyl-2-(1-adamantylamino)ethyl)piperazine | N1=C(C=CC=C1)N1CCN(CC1)C(CNC12CC3CC(CC(C1)C3)C2)C | C22H34N4
